US07723538B2
4-[3,4-Dimethoxy-5-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=523.1 (M−H), was prepared in analogy to example 31, steps A to D. Step C was performed using 3-trifluoromethyl-benzenesulfonyl chloride and yielded 4-[3,4-dimethoxy-5-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3,4-Dimethoxy-5-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid | COC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C(C1OC)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C23H19F3N2O7S
reactant | 3-trifluoromethyl-benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 4-[3,4-dimethoxy-5-(3-trifluoromethyl-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C(=C1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)OC)OC)=O)=O | C25H23F3N2O7S
